US09238640B2
A mixture of 2-(4-(4-acetylpiperazin-1-yl)phenyl)quinazolin-4(3H)-one (2.27 g, 6.5 mmol) and 2 N HCl (100 mL) were heated at 100° C. for 4 hours. Then, the mixture was cooled to room temperature, basified to pH 8 with 2 N NaOH, extracted with CH2Cl2 (3×150 mL), dried over anhydrous MgSO4, filtered, and concentrated to afford 2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one as a pale yellow solid (1.8 g, 90%).

reactant | 2-(4-(4-acetylpiperazin-1-yl)phenyl)quinazolin-4(3H)-one | 6.5 mmol, 2.27 g | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=NC2=CC=CC=C2C(N1)=O | C20H20N4O2
reactant | NaOH | 2 N | [OH-].[Na+]
solvent | HCl | 2 N, 100 mL | Cl | ClH
product | 2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one | 1.8 g, 90% | N1(CCNCC1)C1=CC=C(C=C1)C1=NC2=CC=CC=C2C(N1)=O | C18H18N4O
